US04935430
According to the method of Chem. Abs., 1962, 57, 9840a, a solution of sodium dithionite (85%, 24.74 g, 121 mmol) in water (120 ml) was added to a suspension of (4-iodophenyl)-2-nitroaniline in ethanol (500 ml). The mixture was heated under reflux for 45 minutes, cooled, treated with 300 ml of dilute aqueous ammonia, and concentrated under reduced pressure. The resulting white slurry was treated with 200 ml of dilute aqueous ammonia, filtered and washed with water (200 ml). The solid was dried in a vacuum desiccator at room temperature to give N-(4-iodophenyl)1,2-diaminobenzene, 8.91 g, which gradually darkens on exposure to light, m.p. 122°-123° C.

reactant | sodium dithionite | 121 mmol, 24.74 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | (4-iodophenyl)-2-nitroaniline | IC1=CC=C(C=C1)NC1=C(C=CC=C1)[N+](=O)[O-] | C12H9IN2O2
reactant | ammonia | 300 ml | N | H3N
solvent | water | 120 ml | O | H2O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | N-(4-iodophenyl)1,2-diaminobenzene | IC1=CC=C(C=C1)NC1=C(C=CC=C1)N | C12H11IN2
